US04728663
6,8-Dichloro-N-[3-(1H-imidazol-1-yl)butyl]benz[cd]indol-2-amine
A mixture of 7.0 g of 6,8-dichloro-benz[cd]indole-2-thiol, 100 ml of ethanol, 9.5 g of mercuric acetate and 4.2 g of 4-(1H-imidazol-1-yl)-2-butanamine was reacted as described in Example 1, giving 1.7 g of the desired product, mp 244°-246° C. (dec.).

reactant | 6,8-dichloro-benz[cd]indole-2-thiol | 7.0 g | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)S)C=CC2 | C11H5Cl2NS
reactant | 4-(1H-imidazol-1-yl)-2-butanamine | 4.2 g | N1(C=NC=C1)CCC(C)N | C7H13N3
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 6,8-Dichloro-N-[3-(1H-imidazol-1-yl)butyl]benz[cd]indol-2-amine | 1.7 g | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)NCCC(C)N1C=NC=C1)C=CC2 | C18H16Cl2N4
